US05118686
6(3-Hydroxypropylamino)-2-(2-propoxyphenyl)primidin-4[3H-one
A stirred solution of 4-chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine (0.66 g) and 3-amino-1-propanol (0.56 g) in n-propanol was heated under reflux for 16 hours. The cooled reaction mixture was evaporated under reduced pressure to yield an oil which was partitioned between chloroform (20 ml) and water (20 ml). The chloroform layer was separated from the aqueous layer which was extracted with chloroform (2×10 ml) and the combined chloroform layers were washed with water, dried (magnesium sulphate) and evaporated under reduced pressure. The residue was recrystallised from isopropanol:diethyl ether to yield the title compound, 0.54 g, m.p. 147.5°-148.5° C.

reactant | 4-chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | 0.66 g | ClC1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C13H13ClN2O2
reactant | 3-amino-1-propanol | 0.56 g | NCCCO | C3H9NO
solvent | n-propanol | C(CC)O | C3H8O
product | 6(3-Hydroxypropylamino)-2-(2-propoxyphenyl)primidin | OCCCNC1=CC=NC(=N1)C1=C(C=CC=C1)OCCC | C16H21N3O2
